US07893264B2
8-chloro-4-hydroxy-7-methoxyquinoline-2-carboxylic acid:
To a solution of methyl 8-chloro-4-hydroxy-7-methoxyquinoline-2-carboxylate (36.5 g, 0.145 mol) in a mixture of 1:1 of MeOH: THF (160 mL total) was added a solution of LiOH (30.5 g, 0.725 mol) in H2O (80 mL). The mixture was stirred at room temperature for an hour when LCMS analysis showed complete conversion to the carboxylic acid. The reaction was worked up by removal of the volatiles and adjusting the pH of the solution to 6 using aqueous 6N HCl. The resulted gummy residue was filtered and dried on the lypholizer for 2 days to provide 34.4 g (99.6%) of the product as a white solid. EI MS (m/z) 253.9 [M+H].

reactant | methyl 8-chloro-4-hydroxy-7-methoxyquinoline-2-carboxylate | 0.145 mol, 36.5 g | ClC=1C(=CC=C2C(=CC(=NC12)C(=O)OC)O)OC | C12H10ClNO4
reactant | MeOH | CO | CH4O
reactant | THF | 160 mL | C1CCOC1 | C4H8O
reactant | LiOH | 0.725 mol, 30.5 g | [Li+].[OH-]
solvent | H2O | 80 mL | O | H2O
product | 8-chloro-4-hydroxy-7-methoxyquinoline-2-carboxylic acid | 34.4 g, 99.6% | ClC=1C(=CC=C2C(=CC(=NC12)C(=O)O)O)OC | C11H8ClNO4
